global 0
ahdl_include "C:\Users\wasso\Desktop\HiWi\Gitlab\auto-spice/deps/JART-memristor-models/JART_VCM_v1b.va"
ahdl_include "C:\Users\wasso\Desktop\HiWi\Gitlab\auto-spice/deps/transistor-models/90nm_bulk.pm"
simulatorOptions options vabstol=1e-6 iabstol=1e-12 temp=27 tnom=27 gmin=1e-12
trans tran stop=7000n errpreset=conservative maxstep =10n
saveOptions options save=all currents=all
save SINGLE.I0:OE SINGLE.I0:AE
parameters Read_V = 0.2 Set_V = -1.05 Reset_V = 0.75
parameters T0 = 0.293 eps = 17 epsphib = 5.5 phiBn0 = 0.18 phin = 0.1 \
		un = 4e-06 Ndiscmax = 20 Ndiscmin = 0.008 Ninit = 0.008 Nplug = 20 \
		a = 2.5e-10 ny0 = 20000000000000.0 dWa = 1.35 Rth0 = 10000000.0 rdet = 4.5e-08 \
		lcell = 3 ldet = 0.4 Rtheff_scaling = 0.27 RseriesTiOx = 650 R0 = 719.244 \
		Rthline = 90471.5 alphaline = 0.00392 


subckt 1T1M_ckt MemInput Output TransGate inh_bulk_n
	M0 (net03 MemInput) JART_VCM_1b_det	T0 = T0 eps = eps epsphib = epsphib phiBn0 = phiBn0 phin = phin \
		un = un Ndiscmax = Ndiscmax Ndiscmin = Ndiscmin Ninit = Ninit Nplug = Nplug \
		a = a ny0 = ny0 dWa = dWa Rth0 = Rth0 rdet = rdet \
		lcell = lcell ldet = ldet Rtheff_scaling = Rtheff_scaling RseriesTiOx = RseriesTiOx R0 = R0 \
		Rthline = Rthline alphaline = alphaline 
	T0 (net03 TransGate Output inh_bulk_n) nmos
ends 1T1M_ckt


I0 (c0 0 r0 0) 1T1M_ckt
I1 (c1 0 r0 0) 1T1M_ckt
I2 (c2 0 r0 0) 1T1M_ckt
I3 (c3 0 r0 0) 1T1M_ckt
I4 (c4 0 r0 0) 1T1M_ckt
I5 (c5 0 r0 0) 1T1M_ckt
I6 (c0 0 r1 0) 1T1M_ckt
I7 (c1 0 r1 0) 1T1M_ckt
I8 (c2 0 r1 0) 1T1M_ckt
I9 (c3 0 r1 0) 1T1M_ckt
I10 (c4 0 r1 0) 1T1M_ckt
I11 (c5 0 r1 0) 1T1M_ckt
I12 (c0 0 r2 0) 1T1M_ckt
I13 (c1 0 r2 0) 1T1M_ckt
I14 (c2 0 r2 0) 1T1M_ckt
I15 (c3 0 r2 0) 1T1M_ckt
I16 (c4 0 r2 0) 1T1M_ckt
I17 (c5 0 r2 0) 1T1M_ckt

V1 (c0  0) vsource dc=0


